US07687627B2
(S)-N-{3-[4-(1,5-dithia-10-aza-spiro[6.5]dodec-10-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (0.3 mmol) with 1,3-propanedithiol (0.330 mmol), BF3.etherate (catalytic) in tetrahydrofuran (10 ml) at 70-80° C. for 14 hours followed by silica gel column chromatographic purification to provide title compound in 50% yield.

reactant | (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 0.3 mmol | O1CC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C18H22FN3O4
reactant | 1,3-propanedithiol | 0.330 mmol | C(CCS)S | C3H8S2
reactant | BF3 | B(F)(F)F | BF3
product | (S)-N-{3-[4-(1,5-dithia-10-aza-spiro[6.5]dodec-10-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | S1CCCSCC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C21H28FN3O3S2
